US07618961B2
Ethyl (2-{[(5-chloro-1,3-dimethyl-1H-pyrazol-4-yl)sulfonyl]amino}-1,3-thiazol-4-yl)acetate
The title compound was prepared from ethyl 2-amino-4-thiazolylacetate and 5-chloro-1,3-dimethylpyrazole-4-sulfonyl chloride as described in the synthetic METHOD B to give a white solid (14.8 mg) with purity >90%. MS (pos) m/z 397.2, 381.2.

reactant | ethyl 2-amino-4-thiazolylacetate | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | 5-chloro-1,3-dimethylpyrazole-4-sulfonyl chloride | ClC1=C(C(=NN1C)C)S(=O)(=O)Cl | C5H6Cl2N2O2S
product | Ethyl (2-{[(5-chloro-1,3-dimethyl-1H-pyrazol-4-yl)sulfonyl]amino}-1,3-thiazol-4-yl)acetate | ClC1=C(C(=NN1C)C)S(=O)(=O)NC=1SC=C(N1)CC(=O)OCC | C12H15ClN4O4S2
